US07279575B2
Preparation of ethyl 2-(aminomethyl)-3-methylbutanoate hydrochloride
Ethyl 2-cyano-3-methylbut-2-enoate (5.0 g, 32.6 mmol) was dissolved in 320 mL of absolute EtOH. 700 mg of PtO2 and 12 mL of 4M HCl were added. The reaction mixture was hydrogenated at room temperature for 5 hours (30 psi). Filtration on a celite pad and evaporation of the solvent afforded crude title compound (quantitative yield).

reactant | Ethyl 2-cyano-3-methylbut-2-enoate | 32.6 mmol, 5.0 g | C(#N)C(C(=O)OCC)=C(C)C | C8H11NO2
reactant | HCl | 4M, 12 mL | Cl | ClH
solvent | EtOH | 320 mL | CCO | C2H6O
catalyst | PtO2 | 700 mg | O=[Pt]=O
product | ethyl 2-(aminomethyl)-3-methylbutanoate hydrochloride | quantitative yield | Cl.NCC(C(=O)OCC)C(C)C | InChI=1S/C8H17NO2.ClH/c1-4-11-8(10)7(5-9)6(2)3;/h6-7H,4-5,9H2,1-3H3;1H
